US04470972
Dissolve 1-benzyloxycarbonyl-4-keto-(S)-proline (15.7 g, 60 mmol) in acetic acid (45 ml) and ethyl acetate (45 ml), add 1,2-ethanedithiol (6.2 g, 66 mmol) and stir under nitrogen. Add boron trifluoride etherate (redistilled) and stir 4 hours. Pour the reaction mixture into a mixture of water (175 ml) ethyl acetate (120 ml) and ether (60 ml). Wash the organic layer with water (3×175 ml) then extract twice with 1.0 N sodium bicarbonate (150 ml, then 50 ml). Acidify the aqueous layer to pH 1 with concentrated hydrochloric acid, extract twice with ether (150 ml, then 50 ml). Wash the organic layer with brine, dry over anhydrous magnesium sulfate and concentrate in vacuo to obtain crude 7-benzyloxycarbonyl-1,4-dithia-7-azaspiro[4.4]nonane-8(S)-carboxylic acid as an oil (16.1 g).

reactant | 1-benzyloxycarbonyl-4-keto-(S)-proline | 60 mmol, 15.7 g | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(=O)O)CC(C1)=O | C13H13NO5
reactant | 1,2-ethanedithiol | 66 mmol, 6.2 g | C(CS)S | C2H6S2
reactant | boron trifluoride etherate | B(F)(F)F.CCOCC
reactant | water | 175 ml | O | H2O
solvent | acetic acid | 45 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 45 ml | C(C)(=O)OCC | C4H8O2
solvent | ether | 60 ml | CCOCC | C4H10O
product | 7-benzyloxycarbonyl-1,4-dithia-7-azaspiro[4.4]nonane-8(S)-carboxylic acid | 16.1 g | C(C1=CC=CC=C1)OC(=O)N1CC2(SCCS2)C[C@H]1C(=O)O | C15H17NO4S2
